US08912207B2
To a suspension of 60% NaH (0.063 g, 1.57 mmol) in anhydrous tetrahydrofuran (THF; 5 mL) was added in portions a solution of 2-chlorobenzaldehyde oxime (0.254 g, 1.64 mmol in 1 mL of THF) at room temperature, and the resulting frothy mixture was stirred for 1 h. To the resulting tan mixture was added 5-fluoro-2-methanesulfonylpyrimidin-4-ylamine (0.25 g, 1.31 mmol), at which point the reaction mixture turned orange and most of the solids dissolved. Within minutes of the addition a new solid had precipitated, and the resulting orange mixture was stirred at room temperature for 16 h. The entire reaction mixture was adsorbed to Celite (2.5 g) and the adsorbed material was purified by flash chromatography (24 g SiO2; 0→100% EtOAc/hexanes) to give 2-chlorobenzaldehyde O-(4-amino-5-fluoropyrimidin-2-yl)oxime (0.173 g, 50%) as a white solid: mp 220-230° C. dec; 1H NMR (400 MHz, DMSO-d6) δ 8.83 (s, 1H), 8.05 (d, J=3.1 Hz, 1H), 7.92 (dd, J=7.8, 1.5 Hz, 1H), 7.54 (m, 5H); ESIMS m/z 267 ([M+H]+), 265 ([M−H]−).

reactant | NaH | 1.57 mmol, 0.063 g | [H-].[Na+]
reactant | 2-chlorobenzaldehyde oxime | 1.64 mmol, 1 mL, 0.254 g | ClC1=C(C=NO)C=CC=C1 | C7H6ClNO
reactant | 5-fluoro-2-methanesulfonylpyrimidin-4-ylamine | 1.31 mmol, 0.25 g | FC=1C(=NC(=NC1)S(=O)(=O)C)N | C5H6FN3O2S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-chlorobenzaldehyde O-(4-amino-5-fluoropyrimidin-2-yl)oxime | 0.173 g, 50% | NC1=NC(=NC=C1F)ON=CC1=C(C=CC=C1)Cl | C11H8ClFN4O
